US09085583B2
To a solution of malononitrile (3.3 g, 50 mmol) in anhydrous tetrahydrofuran (100 mL) was added sodium hydride (60% w/w, 2.2 g, 55 mmol) at −10° C. The resultant mixture was stirred for 2 hours. Then diketene (4.2 g, 50 mmol) was added dropwise to the solution. The mixture was allowed to warm to room temperature and continued stirring for 30 minutes. The mixture was neutralized with hydrochloric acid and then concentrated in vacuo to give crude 2-amino-6-methyl-4-oxo-4H-pyran-3-carbonitrile (6.0 g, 80%) as a red solid, which was used in the next step without further purification.

reactant | malononitrile | 50 mmol, 3.3 g | C(CC#N)#N | C3H2N2
reactant | sodium hydride | 55 mmol, 2.2 g | [H-].[Na+]
reactant | diketene | 50 mmol, 4.2 g | C=C1CC(=O)O1 | C4H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-amino-6-methyl-4-oxo-4H-pyran-3-carbonitrile | 6.0 g, 80% | NC=1OC(=CC(C1C#N)=O)C | C7H6N2O2
